US09238640B2
A solution of ethyl 4-(4-benzamidopiperidin-1-yl)benzoate (4.2 g, 11.9 mmol) in THF (400 mL) was cooled to 0° C. under nitrogen and treated with DIBAL-H (1.0 M in THF, 47 mL, 47 mmol). The mixture was warmed to room temperature and stirred for 1 hour. Then, the reaction mixture was quenched with Rochelle's salt (10% aqueous), concentrated to remove the THF, brine (300 mL) was added, and the organic phase was extracted with CH2Cl2 (3×200 mL), dried over anhydrous MgSO4, filtered, and concentrated, to afford N-(1-(4-(hydroxymethyl)phenyl)piperidin-4-yl)benzamide as a yellow solid that was used without further purification.

reactant | ethyl 4-(4-benzamidopiperidin-1-yl)benzoate | 11.9 mmol, 4.2 g | C(C1=CC=CC=C1)(=O)NC1CCN(CC1)C1=CC=C(C(=O)OCC)C=C1 | C21H24N2O3
reactant | DIBAL-H | 47 mmol, 1.0 M, 47 mL | CC(C)C[AlH]CC(C)C
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | N-(1-(4-(hydroxymethyl)phenyl)piperidin-4-yl)benzamide | OCC1=CC=C(C=C1)N1CCC(CC1)NC(C1=CC=CC=C1)=O | C19H22N2O2
